Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
jaundice  
 
Major Surgical or Invasive Procedure:
ERCP with biliary stent placement (___)

 
History of Present Illness:
___ yo M who presents with 2 days of painless jaundice. He
has also noticed acholic stools and dark urine for the past
month. He denies fevers/chills/nausea/vomiting. No other
symptoms. Continues to swim almost two hours a day. He had an
outpatient CT scan at ___ and was sent to the ED for an
obstructing CBD mass noted on the CT.  

 
Past Medical History:
melanoma of L forehead and L forearm s/p excision, BCC on
face s/p excision  
skin excisions, B inguinal hernia repairs  

 
Social History:
___
Family History:
denies  
 
Physical Exam:
NAD, slightly jaundiced eyes and skin  
RRR  
CTAB  
S/NT/ND  
WWP, no cce  
DRE: normal tone, no masses, neg for gross or occult blood

 
Pertinent Results:
___ 08:30AM BLOOD Glucose-160* UreaN-14 Creat-0.7 Na-135 
K-4.9 Cl-102 HCO3-20* AnGap-18
___ 08:30AM BLOOD Calcium-9.5 Phos-3.3 Mg-2.1
___ 08:30AM BLOOD WBC-8.6 RBC-4.66 Hgb-14.7 Hct-45.5 MCV-98 
MCH-31.5 MCHC-32.3 RDW-15.1 Plt ___
___ 08:30AM BLOOD Lipase-977*
___ 07:45AM BLOOD CEA-7.6*
___ 07:45AM BLOOD CA ___ -PND
___ 08:30AM BLOOD ALT-148* AST-59* AlkPhos-274* 
Amylase-727* TotBili-6.0*
.
ERCP ___
Prominent minor papilla, likely normal variant. 
Cannulation of the biliary duct was successful and deep with a 
sphincterotome after a guidewire was placed. 
Contrast medium was injected resulting in complete 
opacification. 
A moderate dilation was seen at the biliary tree with the CBD 
measuring 12 mm. 
A single stricture that was 15 mm long was seen at the upper 
third of the common bile duct. 
A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire. 
Cytology samples were obtained for histology using a brush. 
A 9cm by ___ Cotton ___ biliary stent was placed 
successfully. 
Otherwise normal ERCP to ___ portion of duodenum.
.
Pathology ___
Common bile duct brushings - pending

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation and treatment of jaundice.  On ___, the patient 
underwent an ERCP, which showed a stricture in his common bile 
duct in which a stent was placed.  The patient tolerated the 
procedure well and returned to the floor.  On the floor, the 
patient's vital signs were monitored and remained stable.  He 
was given IV fluids until tolerating oral liquids, and his diet 
was slowly advanced.  His liver function tests remained elevated 
but improved after ERCP.  He did have an elevation in his lipase 
after the ERCP.  His other laboratory values were unremarkable.

The patient was discharged home on ___, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  He will follow up in clinic 
to discuss further management of his condition.

 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
common bile duct stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___